US07960395B2
a) 2-((S)-1-Hydroxy-ethyl)-isonicotinonitrile
The title compound (1.13 g, 7.63 mmol) was prepared according to General Method E1 starting from 2-acetyl-isonicotinonitrile (1.42 g, 9.72 mmol) and (−)-DIPCl (4.67 g, 14.57 mmol).

reactant | 2-acetyl-isonicotinonitrile | 9.72 mmol, 1.42 g | C(C)(=O)C=1C=C(C#N)C=CN1 | C8H6N2O
reactant | (−)-DIPCl | 14.57 mmol, 4.67 g | B([C@@H]1C[C@H]2C[C@@H]([C@@H]1C)C2(C)C)([C@@H]3C[C@H]4C[C@@H]([C@@H]3C)C4(C)C)Cl | C20H34BCl
product | 2-((S)-1-Hydroxy-ethyl)-isonicotinonitrile | 7.63 mmol, 1.13 g | O[C@@H](C)C=1C=C(C#N)C=CN1 | C8H8N2O
